US08685969B2
4. 4-(3-(Benzyloxycarbonylamino)-2-methylphenyl)-7-bromo-9H-pyrido[3,4-b]indole-1-carboxylic acid
To a solution of ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-bromo-9H-pyrido[3,4-b]indole-1-carboxylate (1.338 g, 2.396 mmol) in tetrahydrofuran (48 mL) and methanol (16 mL) at room temperature was added a solution of lithium hydroxide hydrate (0.402 g, 9.58 mmol) in water (10 mL). The resulting solution was stirred at room temperature for 1.5 hr, and then concentrated under vacuum to a volume of about 10 mL. The residue was diluted with water (5 mL) and neutralized with 1 N HCl solution to pH 5-6. The precipitating product (1.177 g, 2.219 mmol, 93% yield) was collected as a beige solid by suction filtration and dried over Drierite under vacuum.

reactant | ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-bromo-9H-pyrido[3,4-b]indole-1-carboxylate | 2.396 mmol, 1.338 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)Br)C(=O)OCC)C | C29H24BrN3O4
reactant | lithium hydroxide hydrate | 9.58 mmol, 0.402 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 48 mL | O1CCCC1 | C4H8O
solvent | methanol | 16 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 4-(3-(Benzyloxycarbonylamino)-2-methylphenyl)-7-bromo-9H-pyrido[3,4-b]indole-1-carboxylic acid | 2.219 mmol, 1.177 g, 93% yield | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)Br)C(=O)O)C | C27H20BrN3O4
